US07314889B2
4-nitrophenylalanine (5 g, 1 eq, mmol) was added in portions to a solution of dry ethanol (50 mL) and thionylchloride (5 mL) at −5° C. It was stirred at that temperature for another one hour, followed by stirring at RT for 16 h. The reaction mixture was condensed on rotavapour, azeotroped with toluene, and then dried over high vaccum pump to obtain 4-nitrophenylalanine ethyl ester hydrochloride as white solid (quantitative yield).

reactant | 4-nitrophenylalanine | 5 g, 1 eq | [N+](=O)([O-])C1=CC=C(C[C@H](N)C(=O)O)C=C1 | C9H10N2O4
reactant | thionylchloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 50 mL | C(C)O | C2H6O
product | 4-nitrophenylalanine ethyl ester hydrochloride | quantitative yield | Cl.C(C)OC([C@@H](N)CC1=CC=C(C=C1)[N+](=O)[O-])=O | InChI=1S/C11H14N2O4.ClH/c1-2-17-11(14)10(12)7-8-3-5-9(6-4-8)13(15)16;/h3-6,10H,2,7,12H2,1H3;1H/t10-;/m0./s1
